US07601856B2
Following the procedure of Example 1, 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (0.20 g, 0.92 mmol), isonicotinoyl chloride hydrochloride (0.20 g, 1.1 mmol), and poly(vinylpyridine) (0.5 g) in dichloroethane (12 mL) provided N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)isonicotinamide (0.13 g). MS (ESI) m/z 321 ([M+H]+); MS (ESI) m/z 319 ([M−H]−).

reactant | 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 0.92 mmol, 0.20 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
reactant | isonicotinoyl chloride hydrochloride | 1.1 mmol, 0.20 g | Cl.C(C1=CC=NC=C1)(=O)Cl
solvent | dichloroethane | 12 mL | ClC(C)Cl | C2H4Cl2
product | N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)isonicotinamide | 0.13 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)NC(C3=CC=NC=C3)=O | C20H20N2O2
